US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (0.23 g) as starting compound, potassium carbonate (0.34 g) and 6-bromo-1-(2,4-dichlorophenyl)-1-hexanone (0.20 g) were reacted and treated in the same manner as in Example 172 to give 0.11 g of 4-amino-5-chloro-N-((1-(6-(2,4-dichlorophenyl)-6-oxohexyl)piperidin-4-yl)-methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 0.23 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 0.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-bromo-1-(2,4-dichlorophenyl)-1-hexanone | 0.20 g | BrCCCCCC(=O)C1=C(C=C(C=C1)Cl)Cl | C12H13BrCl2O
product | 4-amino-5-chloro-N-((1-(6-(2,4-dichlorophenyl)-6-oxohexyl)piperidin-4-yl)-methyl)-2-methoxybenzamide | 0.11 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=C(C=C(C=C2)Cl)Cl)C=C1Cl)OC | C26H32Cl3N3O3
